US09278915B2
Intermediate 79: Methyl (4-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}-3-methyl-1,2-oxazol-5-yl)acetate
To a 50 mL two neck RB flask fitted with magnetic stirrer was charged with 15 mL of toluene. To the stirred solvent were added methyl [4-(4-hydroxyphenyl)-3-methyl-1,2-oxazol-5-yl]acetate (0.3 g, 1.21 mmol), (1Z)-2-[4-(hydroxymethyl)phenoxy]-1-phenylethanone O-methyloxime (0.33 g, 1.21 mmol) and tri-(n-butyl)phosphine (0.39 g, 1.94 mmol) under nitrogen atmosphere. The reaction mixture was cooled to 0° C. and 1,1′-(azodicarbonyl)-dipiperidine (0.49 g, 1.94 mmol) was added portion wise and stirred at room temperature for 2 h. After completion of the reaction, the reaction mixture was poured into water (20 mL) and extracted with ethyl acetate (25 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The crude material was purified by silica gel column chromatography using ethyl acetate and petroleum ether as eluents. The product was obtained as colorless oil (0.47 g, yield: 77%). 1H NMR (300 MHz, CDCl3): δ 7.57-7.61 (m, 2H), 7.26-7.30 (m, 5H), 7.11-7.14 (d, 2H), 6.94-6.97 (d, 2H), 6.85-6.88 (d, 2H), 5.14 (s, 2H), 4.93 (s, 2H), 3.99 (s, 3H), 3.68 (s, 2H), 3.65 (s, 3H), 2.20 (s, 3H).

reactant | methyl [4-(4-hydroxyphenyl)-3-methyl-1,2-oxazol-5-yl]acetate | 1.21 mmol, 0.3 g | OC1=CC=C(C=C1)C=1C(=NOC1CC(=O)OC)C | C13H13NO4
reactant | (1Z)-2-[4-(hydroxymethyl)phenoxy]-1-phenylethanone O-methyloxime | 1.21 mmol, 0.33 g | CO\N=C(/COC1=CC=C(C=C1)CO)\C1=CC=CC=C1 | C16H17NO3
reactant | tri-(n-butyl)phosphine | 1.94 mmol, 0.39 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)-dipiperidine | 1.94 mmol, 0.49 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | water | 20 mL | O | H2O
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl (4-{4-[(4-{[(2Z)-2-(methoxyimino)-2-phenylethyl]oxy}benzyl)oxy]phenyl}-3-methyl-1,2-oxazol-5-yl)acetate | 0.47 g, yield: 77% | CO\N=C(/COC1=CC=C(COC2=CC=C(C=C2)C=2C(=NOC2CC(=O)OC)C)C=C1)\C1=CC=CC=C1 | C29H28N2O6
